US09062027B2
2.1 N-[4-(Ethylamino)-3-hydroxy-4-oxo-1-phenyl-2-butanyl]-2-(2H-indazol-2-yl)nicotinamide
The reaction was carried out in analogy to reaction step 1.4 by reacting 3-(2-(2H-indazol-2-yl)nicotinamido)-2-hydroxy-4-phenylbutanoic acid and ethylamine.

reactant | 3-(2-(2H-indazol-2-yl)nicotinamido)-2-hydroxy-4-phenylbutanoic acid | N=1N(C=C2C=CC=CC12)C1=C(C(=O)NC(C(C(=O)O)O)CC2=CC=CC=C2)C=CC=N1 | C23H20N4O4
reactant | ethylamine | C(C)N | C2H7N
product | N-[4-(Ethylamino)-3-hydroxy-4-oxo-1-phenyl-2-butanyl]-2-(2H-indazol-2-yl)nicotinamide | C(C)NC(C(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2C=CC=CC2=C1)=O)O)=O | C25H25N5O3
